US09056837B2
(a) Methyl 4-methyl-3-(4-phenylpyrimidin-2-ylamino)benzoate
A mixture of 4-phenylpyrimidin-2-amine (100 mg, 0.58 mmol) and methyl 3-bromo-4-methylbenzoate (111 mg, 0.48 mmol), Cs2CO3 (221 mg, 0.68 mmol), Pd2(dba)3 (22 mg, 0.024 mmol) and Xantphos (22 mg, 0.039 mmol) in a microwave reaction vessel was suspended in 5 mL of toluene. The reaction mixture was heated in a microwave at 130° C. for 30 min, and then at 180° C. for 30 min. After cooling, the mixture was purified by ISCO system to give 80 mg of product (yield: 43%). MS (ESI+) m/z 320.1 [M+H]+.

reactant | 4-phenylpyrimidin-2-amine | 0.58 mmol, 100 mg | C1(=CC=CC=C1)C1=NC(=NC=C1)N | C10H9N3
reactant | methyl 3-bromo-4-methylbenzoate | 0.48 mmol, 111 mg | BrC=1C=C(C(=O)OC)C=CC1C | C9H9BrO2
reactant | Cs2CO3 | 0.68 mmol, 221 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Xantphos | 0.039 mmol, 22 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.024 mmol, 22 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Methyl 4-methyl-3-(4-phenylpyrimidin-2-ylamino)benzoate | 80 mg, yield: 43% | CC1=C(C=C(C(=O)OC)C=C1)NC1=NC=CC(=N1)C1=CC=CC=C1 | C19H17N3O2
